data/oMe_Silver.jsonl
{"reaction_id": "NR-104_1-c1ccc(OC)cc1","level": "medium","name": "Hell-Volhard-Zelinsky Reaction","reactants_smiles": ["C(c1ccc(OC)cc1)C(=O)O","P","BrBr"],"products_smiles": ["C(c1ccc(OC)cc1)(Br)C(=O)Br"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)C(=[O])[OH+]P(Br)Br","step_weight": 0,"rationale": "PBr3 activates the carboxylic acid by converting the OH into a better leaving group via formation of a phosphonium intermediate, driven by the strong P–O bond formation and good leaving ability of bromophosphates."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)C(=O)Br","step_weight": 0,"rationale": "Bromide ion displaces the activated leaving group in an SN2-like process, favored by the electrophilic carbonyl carbon and the excellent leaving group ability of the phosphonium ester."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)=C([OH])Br","step_weight": 0,"rationale": "Base-induced deprotonation at the α-position forms the enol, stabilized by resonance with the adjacent carbonyl, making the α-carbon nucleophilic for subsequent electrophilic attack."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)(Br)C(=[OH+])Br","step_weight": 0,"rationale": "The electron-rich enol double bond attacks molecular bromine, with electrophilic bromination favored at the α-carbon due to resonance stabilization of the resulting carbocation intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(Br)C(=O)Br","step_weight": 0,"rationale": "Proton transfer restores the carbonyl from the enol, driven by the thermodynamic stability of the C=O bond over the C–OH form."}],"description": "In the Hell–Volhard–Zelinsky reaction, the carboxylic acid is first converted to an acyl bromide via phosphorus tribromide, enabling α-bromination through enol formation and electrophilic bromination. Subsequent tautomerization regenerates the carbonyl, yielding the α-bromoacyl bromide product efficiently."}
{"reaction_id": "NR-330_1-c1ccc(OC)cc1_2-c1ccc(C(F)(F)F)cc1_3-C(=O)C_4-c1ccc(N(C)C)cc1_5-SC_6-C_7-C1CCCCC1_8-CC(C)C","level": "medium","name": "Rauhut-Currier Reaction","reactants_smiles": ["c1ccc(OC)cc1C(=O)C=C(c1ccc(C(F)(F)F)cc1)C(=O)C","C1CCCCC1C(=O)C(C)=C(SC)c1ccc(N(C)C)cc1","P(CC(C)C)(CC(C)C)CC(C)C"],"products_smiles": ["c1ccc(OC)cc1C(=O)C(=C(c1ccc(C(F)(F)F)cc1)C(=O)C)C(c1ccc(N(C)C)cc1)(SC)C(C)C(=O)C1CCCCC1"],"conditions": "Nucleophilic Catalyst (e.g., P(n-Bu)3)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C([O-])=CC(c1ccc(C(F)(F)F)cc1)(C(=O)C)[P+](CC(C)C)(CC(C)C)CC(C)C","step_weight": 0,"rationale": "The phosphine's lone pair attacks the β-position of the electron-deficient alkene, favored by conjugation with the carbonyl, forming a zwitterionic intermediate stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(C(c1ccc(C(F)(F)F)cc1)(C(=O)C)([P+](CC(C)C)(CC(C)C)CC(C)C))C(c1ccc(N(C)C)cc1)(SC)C(C)=C([O-])C1CCCCC1","step_weight": 0,"rationale": "The nucleophilic carbon in the phosphonium enolate intermediate attacks the β-position of the second activated alkene, driven by its strong electron-withdrawing carbonyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C([O-])=C(C(c1ccc(C(F)(F)F)cc1)(C(=O)C)([P+](CC(C)C)(CC(C)C)CC(C)C))C(c1ccc(N(C)C)cc1)(SC)C(C)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Proton transfer occurs to stabilize the alkoxide and generate a neutral intermediate, facilitated by the basicity of the alkoxide and the acidity of nearby protons."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(=C(c1ccc(C(F)(F)F)cc1)C(=O)C)C(c1ccc(N(C)C)cc1)(SC)C(C)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Elimination of the phosphine regenerates the catalyst, driven by formation of a conjugated enone system, which is thermodynamically favored due to extended π-delocalization."}],"description": "A nucleophilic phosphine catalyst activates an electron-deficient alkene toward conjugate addition, enabling C–C bond formation between two Michael acceptors. Subsequent proton transfer and elimination regenerate the catalyst, yielding the conjugated enone product under mild conditions with high atom economy."}
